US08865675B2
Synthesis of Benzyl 5-Hydroxypentanoate
A solution of δ-valerolactone (10 g, 100 mmol) in 1M aqueous sodium hydroxide (100 mL) was heated overnight with stirring at 65° C. The solution was concentrated in vacuo to dryness and any residual water removed under high vacuum at −190° C. The resulting white powder was broken up and suspended in acetone (40 mL). With stirring, benzyl bromide (17 g, 101.4 mmol) and tetrabutylammonium bromide (0.82 g, 2.539 mmol) were added. The mixture was heated at 45° C. with stirring for 72 hours, cooled, and concentrated. The resulting white oily powder was dissolved in ethyl acetate (300 mL) and washed twice each with saturated NaHCO3 and brine. The organic portion was dried over anhydrous MgSO4, filtered, and then concentrated. The result was a yellow oil, which was purified by column chromatography (column 10″L×2″W; eluted with a gradient of 100% hexanes→+30%→50% ethyl acetate in hexanes) to afford the product as a pale yellow oil (3.11 g, 15%).

reactant | δ-valerolactone | 100 mmol, 10 g | C1(CCCCO1)=O | C5H8O2
reactant | benzyl bromide | 101.4 mmol, 17 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydroxide | 1M, 100 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 2.539 mmol, 0.82 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Benzyl 5-Hydroxypentanoate | 3.11 g, 15% | OCCCCC(=O)OCC1=CC=CC=C1 | C12H16O3
